US08859615B2
1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazole
To a solution of (4R,5R)-4-heptyl-2,2-dimethyl-5-(prop-2-ynyl)-1,3-dioxolane (14 mg, 0.059 mmol) in a water/t-butanol mixture (0.11, 0.11 mL), was added benzyl azide (8.5 μL, 1.1 eq), copper sulfate (56 μL of a 0.1 M sol'n, 0.1 eq), and sodium ascorbate (56 μL of a 1 M sol'n, 1 eq). The mixture was stirred at room temperature overnight to yield the title compound (21.1 mg, 97%). 1H NMR (300 MHz, CDCl3) δ 7.35 (m, 3H), 7.25 (m, 2H), 5.54 (d, 14.7 Hz, 1H), 5.45 (d, 14.7 Hz, 1H), 3.86 (m, 1H), 3.64 (m, 1H), 3.03 (dd, 4.2 Hz, 15.3 Hz, 1H), 2.92 (dd, 6.9 Hz, 15.3 Hz, 1H), 1.55-1.23 (m, 12H), 1.26 (s, 3H), 1.23 (s, 3H), 0.87 (t, 6.8 Hz, 3H). LRMS (APCI+) found 372.5, [M+H]+.

reactant | (4R,5R)-4-heptyl-2,2-dimethyl-5-(prop-2-ynyl)-1,3-dioxolane | 0.059 mmol, 14 mg | C(CCCCCC)[C@H]1OC(O[C@@H]1CC#C)(C)C | C15H26O2
reactant | benzyl azide | 8.5 μL, 1.1 eq | C(C1=CC=CC=C1)N=[N+]=[N-] | C7H7N3
reactant | sodium ascorbate | O=C1C(O)=C([O-])[C@H](O1)[C@@H](O)CO.[Na+]
catalyst | copper sulfate | S(=O)(=O)([O-])[O-].[Cu+2]
solvent | water t-butanol | 0.11 mL | O.C(C)(C)(C)O
product | 1-benzyl-4-(((4R,5R)-5-heptyl-2,2-dimethyl-1,3-dioxolan-4-yl)methyl)-1H-1,2,3-triazole | 21.1 mg, 97% | C(C1=CC=CC=C1)N1N=NC(=C1)C[C@H]1OC(O[C@@H]1CCCCCCC)(C)C | C22H33N3O2
